US07368578B2
To a mixture of (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenaldehyde (0.51 g), tetraethyl methylenediphosphonate (0.32 g) and N,N-dimethylformamide (10 mL) was added sodium hydride (60% in oil, 0.050 g) at room temperature, and the mixture was stirred at the same temperature for 15 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give diethyl (1E,3E)-4-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-1,3-butadienylphosphonate as colorless crystals (0.53 g, yield 82%) from a fraction eluted with ethyl acetate-hexane (8:1, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 143-144° C.

reactant | (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenaldehyde | 0.51 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2/C=C/C=O)C2=CC=CC=C2)C=C1)OC)C | C29H25N3O6
reactant | tetraethyl methylenediphosphonate | 0.32 g | C(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C9H22O6P2
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.050 g | [H-].[Na+]
solvent | Water | O | H2O
product | diethyl (1E,3E)-4-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-1,3-butadienylphosphonate | 0.53 g, yield 82% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2/C=C/C=C/P(OCC)(OCC)=O)C2=CC=CC=C2)C=C1)OC)C | C34H36N3O8P
